US06727264B1
N-[2-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}-4-(TRIFLUOROMETHOXY)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme AI using 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene and 2-methyl-N-[2-(4-piperidinyl)-4-(trifluoromethoxy)phenyl]propanamide: ESMS m/e: 574.8 (M+H)+.

reactant | 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 2-methyl-N-[2-(4-piperidinyl)-4-(trifluoromethoxy)phenyl]propanamide | CC(C(=O)NC1=C(C=C(C=C1)OC(F)(F)F)C1CCNCC1)C | C16H21F3N2O2
product | N-[2-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}-4-(TRIFLUOROMETHOXY)PHENYL]-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C1=C(C=CC(=C1)OC(F)(F)F)NC(C(C)C)=O)C1=CC=C(C=C1)F | C32H35F5N2O2
